US06653313B2
A. 2-[[2-(Chloromethyl)benzyl]oxy]-N-tritylethanamine
A solution of 2-(triphenylmethylamino)ethanol (5.00 g, 16.5 mmol) in THF (20 ml) was added dropwise to a suspension of NaH (60% in oil, 0.79 g, 19.8 mmol) in THF (30 ml) at room temperature and the mixture was stirred for 0.5 hour. α,α-Dichloro-o-xylene (1.56 g, 66.0 mmol) was added and the mixture was stirred for 24 h at reflux temperature. The mixture was poured into water (50 ml) and the whole was extracted with ether (50 ml×2). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=15/1 as eluent) to afford the titled compound as a colorless oil. (1.00 g, 14%)

reactant | 2-(triphenylmethylamino)ethanol | 16.5 mmol, 5.00 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
reactant | NaH | 19.8 mmol, 0.79 g | [H-].[Na+]
reactant | α,α-Dichloro-o-xylene | 66.0 mmol, 1.56 g | ClC(C=1C(=CC=CC1)C)Cl | C8H8Cl2
reactant | water | 50 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-[[2-(Chloromethyl)benzyl]oxy]-N-tritylethanamine | ClCC1=C(COCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C29H28ClNO
